US05401772
2-Methylanisole (20 g) in 500 ml dichloromethane chilled in an ice bath is treated with 27.2 g of nitronium tetrafluoroborate and stirred two days. The mixture is poured into water, the layers are separated, and the aqueous phase is washed with dichloromethane. The combined organic layers are dried, filtered, stripped, and chromatographed on silica gel with 9:1 to 8:2 hexane:ethyl acetate to give 2-methyl-4-nitroanisole. NMR (CDCl3): δ2.3 (3H,s), 3.9 (3H,s), 6.9 (1H,d), 8.0 (1H,d), 8.1 (1H,d of d).

reactant | 2-Methylanisole | 20 g | CC1=C(C=CC=C1)OC | C8H10O
reactant | nitronium tetrafluoroborate | 27.2 g | F[B-](F)(F)F.O=[N+]=O
reactant | water | O | H2O
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 2-methyl-4-nitroanisole | CC1=C(C=CC(=C1)[N+](=O)[O-])OC | C8H9NO3
